US08871948B2
To a mixture containing N-(2-iodo-4-nitrophenyl)methanesulfonamide (13.5 g; 39.5 mmol), triethylamine (17.9 ml; 129 mmol), ethynylcyclohexane (8.55 g; 79 mmol) in DMF (60 ml), CuI (1.5 g; 7.9 mmol) and dichlorobis(triphenylphosphine)palladium(II) [Cl2(PPh3)2Pd] (2.77 g; 3.95 mmol) were added. The reaction mixture was left under stirring at 70° C. for 18 hours. After cooling to room temperature, EtOAc (100 ml) was added, the inorganic precipitate was filtered off and the solution was transferred into a separating funnel and washed with NaHCO3 (saturated solution, 3×200 ml) and water (2×150 ml). The organic phase was dried over Na2SO4, the solvent was removed by evaporation under reduced pressure. The so obtained crude product was crystallized (isopropyl ether) to give 2-cyclohexyl-1-(methylsulfonyl)-5-nitro-1H-indole (11.7 g)

reactant | N-(2-iodo-4-nitrophenyl)methanesulfonamide | 39.5 mmol, 13.5 g | IC1=C(C=CC(=C1)[N+](=O)[O-])NS(=O)(=O)C | C7H7IN2O4S
reactant | triethylamine | 129 mmol, 17.9 ml | C(C)N(CC)CC | C6H15N
reactant | ethynylcyclohexane | 79 mmol, 8.55 g | C(#C)C1CCCCC1 | C8H12
reactant | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
catalyst | CuI | 7.9 mmol, 1.5 g | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 3.95 mmol, 2.77 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-cyclohexyl-1-(methylsulfonyl)-5-nitro-1H-indole | 11.7 g | C1(CCCCC1)C=1N(C2=CC=C(C=C2C1)[N+](=O)[O-])S(=O)(=O)C | C15H18N2O4S
